US04391807
A mixture of 15 g of 6-chloro-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine and 36.2 g of 1-methylpiperazine was heated at reflux for 48 hours during which time the reaction mixture turned brown. The reaction was poured into about 150 ml of ice water. The solid which formed was separated by filtration and air-dried to give 6-(4-methyl-1-piperazinyl)-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine melting at about 79.5° C.

reactant | 6-chloro-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine | 15 g | ClC1=NN2C(C=3CCCCC13)=NC=C2 | C10H10ClN3
reactant | 1-methylpiperazine | 36.2 g | CN1CCNCC1 | C5H12N2
product | 6-(4-methyl-1-piperazinyl)-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine | CN1CCN(CC1)C1=NN2C(C=3CCCCC13)=NC=C2 | C15H21N5
